US09085555B2
F. (2R,5S)-2-Azidomethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2R,5S)-2-methanesulfonyloxymethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (465 mg, 0.97 mmol) in DMF (3 mL) was added a solution of sodium azide (313 mg, 4.82 mmol) in water (0.5 mL) and the mixture was stirred at 80° C. under nitrogen atmosphere overnight. EtOAc and a saturated aqueous solution of NaHCO3 were added, the layers were separated and the aqueous one back-extracted with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc gradient 100:0 to 1:1) to give the desired compound. MS (LC-MS): 330 [MH−Boc]+; tR (HPLC conditions b) 5.75 min.

reactant | (2R,5S)-2-methanesulfonyloxymethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.97 mmol, 465 mg | C(C)(C)(C)OC(=O)N1[C@H](CC[C@H]1C(NC1=CC(=CC=C1)OC(F)(F)F)=O)COS(=O)(=O)C | C19H25F3N2O7S
reactant | sodium azide | 4.82 mmol, 313 mg | [N-]=[N+]=[N-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | (2R,5S)-2-Azidomethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CC[C@H]1C(NC1=CC(=CC=C1)OC(F)(F)F)=O)CN=[N+]=[N-] | C18H22F3N5O4
